US03978140
After stirring the reaction mixture for an additional 0.5 hour at 0°-5°C, a solution of 3860 grams (18 moles) of m-phenoxybenzoic acid in tetrahydrofuran was added dropwise over a 4 hour period while maintaining a reaction temperature of 0°-10°C. When the addition was complete, the reaction mixture was stirred for 12 hours at 20°C followed by 2 hours at 40°C. The reaction mixture was then transferred to a 10 gallon bottle containing 6 liters of water and 8 liters of diethyl ether. After mixing thoroughly, the aqueous layer was removed and the organic layer was extracted with water (1 × 4 liters), extracted with aqueous saturated sodium bicarbonate solution (1 × 4 liters), extracted with aqueous saturated sodium chloride solution (1 × 4 liters), dried over anhydrous potassium carbonate, filtered, and concentrated on a rotary evaporator. Short-path distillation gave 3000 grams (83% yield) of m-phenoxybenzyl alcohol, bp 135°-140°C/0.10 mm, n20D 1.5935.

reactant | m-phenoxybenzoic acid | 18 moles, 3860 grams | O(C1=CC=CC=C1)C=1C=C(C(=O)O)C=CC1 | C13H10O3
reactant | water | 6 liters | O | H2O
reactant | diethyl ether | 8 liters | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | m-phenoxybenzyl alcohol | 3000 grams, 83% yield | O(C1=CC=CC=C1)C=1C=C(CO)C=CC1 | C13H12O2
